US05968875
NaH (60% dispersion in mineral oil, 0.24 g, 6.0 mmol) was added to a solution of 2-hydroxymethyl-α-methyoxyimino-N-methyl-benzeneacetamide (1.11 g, 5.0 mmol) in THF (50 mL). 5,6-Dichloropicolinic acid: 3-ethyl-3-pentyl ester (1.68 g, 5.5 mmol) was dissolved in THF (10 mL) and added slowly via pipet to this mixture. As the mixture was stirred at room temperature under N2 for one hour, the reaction mixture transformed to a dark green solution. The reaction volume was increased to ca. 125 mL with ethyl acetate and washed with water and brine. The organic phase was evaporated in vacuo to provide the crude product which was chromatographed on medium pressure LC using increasing gradient of ethyl acetate in hexane (0-50%). Concentrating chromatographic fractions gave α-(methoxyimino)-N-methyl-2-[[[3-chloro-6-(3-ethyl-3-pentoxycarbonyl)-2-pyridinyl]oxy]methyl]-benzeneacetamide (0.29 g) as a yellow oil.

reactant | NaH | 6.0 mmol, 0.24 g | [H-].[Na+]
reactant | 2-hydroxymethyl-α-methyoxyimino-N-methyl-benzeneacetamide | 5.0 mmol, 1.11 g | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
reactant | 5,6-Dichloropicolinic acid | ClC=1C=CC(=NC1Cl)C(=O)O | C6H3Cl2NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | α-(methoxyimino)-N-methyl-2-[[[3-chloro-6-(3-ethyl-3-pentoxycarbonyl)-2-pyridinyl]oxy]methyl]-benzeneacetamide | 0.29 g | CON=C(C(=O)NC)C1=C(C=CC=C1)COC1=NC(=CC=C1Cl)C(=O)OC(CC)(CC)CC | C24H30ClN3O5
